US07282515B2
1. Production of 1-oxa-3-aza-spiro[4.5]decane-2-on
0.65 g (5.0 mmol) of 1-(aminomethyl)-cyclohexanol, 1.2 g (5.5 mmol) di-tert.-butyldicarbonate ((Boc)2O) and 0.611 g 4-dimethylaminopyridine were dissolved in 50 ml acetonitrile and agitated overnight at room temperature. The mixture was then fully turned over, the residue was dissolved in 20 ml acetic acid and again turned over. The residue was taken up in 25 ml 1 M hydrochloric acid and extracted with 50 ml toluene.

reactant | 1-(aminomethyl)-cyclohexanol | 5.0 mmol, 0.65 g | NCC1(CCCCC1)O | C7H15NO
reactant | di-tert.-butyldicarbonate | 5.5 mmol, 1.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.611 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 1 M, 25 ml | Cl | ClH
product | 1-oxa-3-aza-spiro[4.5]decane-2-on | O1C(NCC12CCCCC2)=O | C8H13NO2
